* C:\Users\Jayaraj Chippada\OneDrive\Pictures\Documents\LTspiceXVII\Class Assignment3\Phase3\3 Phase FWR-R.asc
V1 N002 0 SINE(0 220 50 0 0 0)
V2 N003 0 SINE(0 220 50 0 0 120)
V3 N004 0 SINE(0 220 50 0 0 240)
D1 N002 N001 1N4148
D2 N005 N004 1N4148
D3 N003 N001 1N4148
D4 N005 N002 1N4148
D5 N004 N001 1N4148
D6 N005 N003 1N4148
R1 N001 N005 10
.model D D
.lib C:\Users\Jayaraj Chippada\OneDrive\Pictures\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.1
.backanno
.end
