* C:\Users\Jayaraj Chippada\OneDrive\Pictures\Documents\LTspiceXVII\Class Assignment3\SCR\Phase3\FWR\3Phase FWR.asc
V1 N005 0 SINE(0 220 50 0 0 0)
V2 N006 0 SINE(0 220 50 0 0 120)
V3 N008 0 SINE(0 220 50 0 0 240)
R1 N001 N007 100
V4 N004 N001 PULSE(0 5 1.67m 1n 1n 10m 20m)
V5 N002 N001 PULSE(0 5 15.03m 1n 1n 10m 20m)
V6 N003 N001 PULSE(0 5 8.33m 1n 1n 10m 20m)
V7 N010 N005 PULSE(0 5 25.03m 1n 1n 10m 20m)
V8 N011 N006 PULSE(0 5 18.33m 1n 1n 10m 20m)
V9 N012 N008 PULSE(0 11.67 5m 1n 1n 10m 20m)
XU7 N005 N001 N004 SCR_ST
XU8 0 N005 N010 SCR_ST
XU9 0 N006 N011 SCR_ST
XU10 0 N008 N012 SCR_ST
XU11 N006 N001 N002 SCR_ST
XU12 N008 N001 N003 SCR_ST
L1 N007 N009 1µ
V10 N009 0 50
.tran 100m
.inc C:\Users\Jayaraj Chippada\OneDrive\Pictures\Documents\LTspiceXVII\lib\st_high-temperature_scr_pspice\st_high-temperature_scr.lib
.backanno
.end
